US05159082
3.56 g (20 mmol) of sodium p-toluenesulfinate, 3.74 g (20 mmol) of p-bromoanisole, 0.0225 g (0.1 mmol) of palladium acetate, 0.0478 g (0.12 mmol) of 1,2-bis(diphenylphosphino)-ethane, 6.73 g (120 mmol) of calcium oxide and 60 ml of N-methyl-2-pyrrolidone were placed in a 100 ml round bottom flask and reacted at 150° C. in a nitrogen gas stream for 6 hours. After the completion of the reaction, the reaction mixture was analyzed by means of high performance liquid chromatography. The analysis showed that 15.0 mmol (yield 75%) of 4'-methoxy-4-methylbiphenyl was formed in the reaction mixture solution.

reactant | sodium p-toluenesulfinate | 20 mmol, 3.56 g | C1(=CC=C(C=C1)S(=O)[O-])C.[Na+]
reactant | p-bromoanisole | 20 mmol, 3.74 g | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | calcium oxide | 120 mmol, 6.73 g | [O-2].[Ca+2]
catalyst | palladium acetate | 0.1 mmol, 0.0225 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 1,2-bis(diphenylphosphino)-ethane | 0.12 mmol, 0.0478 g | C1(=CC=CC=C1)P(CCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C26H24P2
solvent | N-methyl-2-pyrrolidone | 60 ml | CN1C(CCC1)=O | C5H9NO
product | 4'-methoxy-4-methylbiphenyl | 15.0 mmol, yield 75% | COC1=CC=C(C=C1)C1=CC=C(C=C1)C | C14H14O
